US05859032
Synthesis of 5-(2-aminoethylamino)-2-methoxypyridine
5-amino-2-methoxypyridine(3.18 g), chloroacetic anhydride(6.56 g), and triethylamine(7.09 ml) were stirred in benzene(55 ml) for 1 hour while being cooled with ice. The reaction mixture, with water added thereto, was extracted with ethyl acetate. The extract was dried over sodium sulfate anhydride and then concentrated under a vacuum. To the solution of the residue in dimethylformamide(20 ml) was added potassium phthalimide(5.21 g) and then the mixture was refluxed with stirring for 3 hours. After a large amount of water was added thereto, the depositing crystal was collected by filtration. The solution of the crystal in ethanol(120 ml), with hydrazine monohydrate(2.56 ml) was refluxed with stirring for 2 hours and then concentrated under a vacuum. The residue, with water added thereto, was acidified with sodium hydrogencarbonate and then extracted with ethyl acetate. The extract was dried over sodium sulfate anhydride and then concentrated under a vacuum. The solution of the residue in tetrahydrofuran(40 ml) was dropped into the suspension of lithium aluminium hydride(2.63 g) in tetrahydrofuran(40 ml) while being cooled with ice and the mixture was stirred at room temperature for 2 hours. A small amount of water was added thereto and the resulting deposit was filtrated out. The filtrate was concentrated under a vacuum, thereby yielding 2.12 g of the aimed compound.

reactant | 5-amino-2-methoxypyridine | 3.18 g | NC=1C=CC(=NC1)OC | C6H8N2O
reactant | chloroacetic anhydride | 6.56 g | ClCC(=O)OC(CCl)=O | C4H4Cl2O3
reactant | triethylamine | 7.09 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | benzene | 55 ml | C1=CC=CC=C1 | C6H6
product | 5-(2-aminoethylamino)-2-methoxypyridine | 2.12 g | NCCNC=1C=CC(=NC1)OC | C8H13N3O
